US07714126B2
Preparation of bicyclo[2.2.1]hept-2-yl-(5-nitro-pyridin-2-yl)-amine
2-Chloro-5-nitropyridine (158 mg, 1 mmol), 2-aminonorbornane hydrochloride (147 mg, 1 mmol), and finely ground potassium carbonate (419 mg, 3 mmol) were heated to 80° C. in 10 mL anhydrous DMF for 3.5 hrs. The mixture was diluted with EtOAc, extracted with H2O and dried over MgSO4. The EtOAc was filtered, evaporated to dryness to yield 220 mg. ES-MS calcd for C12H15N3O2 (m/e) 233.21, obsd 234.1 (M+H).

reactant | 2-Chloro-5-nitropyridine | 1 mmol, 158 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-aminonorbornane hydrochloride | 1 mmol, 147 mg | Cl.NC1C2CCC(C1)C2
reactant | potassium carbonate | 3 mmol, 419 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | bicyclo[2.2.1]hept-2-yl-(5-nitro-pyridin-2-yl)-amine | C12C(CC(CC1)C2)NC2=NC=C(C=C2)[N+](=O)[O-] | C12H15N3O2
